US20010000513A1
In a manner similar to Example 4, Step (c), 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid (0.277 g, 0.000892 mol) was allowed to react with hydroxylamine hydrochloride (0.0704 g, 0.00101 mol) in the presence of sodium carbonate (0.1074 g, 0.00101 mol) in absolute ethanol (7 mL) to give 0.272 g of 4-(4′-tert-butyl-biphenyl-4-yl)-4-hydroxyimino-butyric acid as a white solid; mp 170.5-171.5° C.

reactant | 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid | 0.000892 mol, 0.277 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C20H22O3
reactant | hydroxylamine hydrochloride | 0.00101 mol, 0.0704 g | Cl.NO
reactant | sodium carbonate | 0.00101 mol, 0.1074 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 4-(4′-tert-butyl-biphenyl-4-yl)-4-hydroxyimino-butyric acid | 0.272 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C20H23NO3
